US05650533
A solution of methanethiol (47 ml) in dimethyl formamide was added to a mixture of ethyl 2,4-dibromo-3-methoxybenzoate (105 g) and potassium carbonate (131 g) in dimethyl formamide and the resultant suspension was stirred at room temperature overnight. Water was added and the mixture was extracted into ether, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by column chromatography eluted with a mixture of ethyl acetate and cyclohexane to give as the minor component ethyl 4-bromo-3-methoxy-2-(methylsulphenyl)-benzoate (45 g) as a white solid, NMR (CDCl3) 1.5(t,3H), 2.6(s,3H), 4.05(s,3H), 4.5(q,2H), 7.35 (m,2H).

reactant | methanethiol | 47 ml | CS | CH4S
reactant | ethyl 2,4-dibromo-3-methoxybenzoate | 105 g | BrC1=C(C(=O)OCC)C=CC(=C1OC)Br | C10H10Br2O3
reactant | potassium carbonate | 131 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | ethyl 4-bromo-3-methoxy-2-(methylsulphenyl)-benzoate | 45 g | BrC1=C(C(=C(C(=O)OCC)C=C1)SC)OC | C11H13BrO3S
